US06380215B1
To a solution of 3-(1-benzyloxycarbonyl-4-piperidyl)propionic acid (0.18 g) in N,N-dimethylformamide (3 ml) was added N-methylmorpholine (0.09 ml) and isobutylchloroformate (0.1 ml) under stirring at −15° C. After stirring at −15° C. for 2 hours, N-[(1,2,3,4-tetrahydro-3-quinolyl)carbonyl]-β-alanine ethyl ester (0.22 g) and N-methylmorpholine (0.12 ml) in tetrahydrofuran (2 ml) was added. After stirring at 0° C. for 2 hours and ambient temperature for overnight, the mixture was poured into water, and extracted with ethyl acetate. The extract was washed with 5% KHSO4 aqueous solution saturated NaHCO3 aqueous solution and brine, and dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel eluting with (CHCl3:MeOH=100:1) to give N-[1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-1,2,3,4-tetrahydro-3-quinolylcarbonyl]-β-alanine ethyl ester as an oil (0.18 g).

reactant | 3-(1-benzyloxycarbonyl-4-piperidyl)propionic acid | 0.18 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)O | C16H21NO4
reactant | N-methylmorpholine | 0.09 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.1 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-[(1,2,3,4-tetrahydro-3-quinolyl)carbonyl]-β-alanine ethyl ester | 0.22 g | C(C)OC(CCNC(=O)C1CNC2=CC=CC=C2C1)=O | C15H20N2O3
reactant | N-methylmorpholine | 0.12 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-1,2,3,4-tetrahydro-3-quinolylcarbonyl]-β-alanine ethyl ester | 0.18 g | C(C)OC(CCNC(=O)C1CN(C2=CC=CC=C2C1)C(CCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)=O | C31H39N3O6
